### PR TITLE
[Merged by Bors] - feat: port Data.Polynomial.FieldDivision

### PR DESCRIPTION
**Pull request by mattrobball**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/FieldDivision.lean [hunk 1]
```diff
@@ -0,0 +1,567 @@
...
+    exact monic_X_sub_C a
+  replace key := congr_arg derivative key
+  rw [modByMonic_X_sub_C_eq_C_eval] at key
+  rw [derivative_mul,derivative_sub,derivative_X,derivative_sub] at key
+  rw [derivative_C,sub_zero,one_mul] at key 
+  assumption
+
+/- Porting note: factored out another have statement from 
+isCoprime_of_is_root_of_eval_derivative_ne_zero because the original proof was timing out -/
+theorem monic_dvd_derivative_of_monic_dvd_modByMonic {K : Type _} [Field K] (f : K[X]) {a : K}
```
Comment (ChrisHughes24) [inline Mathlib/Data/Polynomial/FieldDivision.lean:541]: This should be renamed something like `X_sub_C_dvd_derivative_of_dvd_divByMonic`

File: Mathlib/Data/Polynomial/FieldDivision.lean [hunk 2]
```diff
@@ -0,0 +1,567 @@
...
+
+theorem degree_pos_of_irreducible (hp : Irreducible p) : 0 < p.degree :=
+  lt_of_not_ge fun hp0 =>
+    have := eq_C_of_degree_le_zero hp0
+    not_irreducible_c (p.coeff 0) <| this ▸ hp
+#align polynomial.degree_pos_of_irreducible Polynomial.degree_pos_of_irreducible
+
+/- Porting note: factored out a have statement from isCoprime_of_is_root_of_eval_derivative_ne_zero 
+because the original proof was timing out -/
+theorem modByMonic_derivative_formula {K : Type _} [Field K] (f : K[X]) (a : K) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Polynomial/FieldDivision.lean:527]: Can we make this statement a bit more sensible to something like `derivative f = f /ₘ (X - C a) + (X - C a) * derivative (f /ₘ (X - C a))` and name it something like `derivative_eq_divByMonic_add_X_sub_C_mul` or something.

**Review by ChrisHughes24 — CHANGES_REQUESTED** [review]

File: Mathlib/Data/Polynomial/FieldDivision.lean (hunk 2 above)
Comment (mattrobball) [reply Mathlib/Data/Polynomial/FieldDivision.lean:527]: I tried that first. But I had to split up the `rw [derivative_C]` calls to prevent a timeout. Strangely the timeout did not occur while in the editor but only on `lake build`. I didn't push harder because I think there are underlying issues that should probably be addressed rather than worked totally around.

Comment (mattrobball) [reply Mathlib/Data/Polynomial/FieldDivision.lean:527]: If you think I should push harder, then I will

File: Mathlib/Data/Polynomial/FieldDivision.lean [hunk 3]
```diff
@@ -0,0 +1,571 @@
...
+/- Porting note: factored out a have statement from isCoprime_of_is_root_of_eval_derivative_ne_zero 
+into multiple decls because the original proof was timing out -/
+theorem id_sub_modByMonic_eq_X_sub_C_prod_divByMonic {K : Type _} [Field K] (f : K[X]) (a : K) :
+    (X - C a) * (f /ₘ (X - C a)) = f - f %ₘ (X - C a) := by
+  rw [eq_sub_iff_add_eq, ← eq_sub_iff_add_eq', modByMonic_eq_sub_mul_div]
+  exact monic_X_sub_C a
+
+/- Porting note: factored out a have statement from isCoprime_of_is_root_of_eval_derivative_ne_zero 
+because the original proof was timing out -/
+theorem derivative_eq_divByMonic_add_X_sub_C_prod_derivative_divByMonic
```
Comment (ChrisHughes24) [inline Mathlib/Data/Polynomial/FieldDivision.lean:534]: this should be called `divByMonic_add_X_Sub_C_mul_derivate_divByMonic_eq_derivative`

File: Mathlib/Data/Polynomial/FieldDivision.lean [hunk 4]
```diff
@@ -0,0 +1,571 @@
...
+
+theorem degree_pos_of_irreducible (hp : Irreducible p) : 0 < p.degree :=
+  lt_of_not_ge fun hp0 =>
+    have := eq_C_of_degree_le_zero hp0
+    not_irreducible_c (p.coeff 0) <| this ▸ hp
+#align polynomial.degree_pos_of_irreducible Polynomial.degree_pos_of_irreducible
+
+/- Porting note: factored out a have statement from isCoprime_of_is_root_of_eval_derivative_ne_zero 
+into multiple decls because the original proof was timing out -/
+theorem id_sub_modByMonic_eq_X_sub_C_prod_divByMonic {K : Type _} [Field K] (f : K[X]) (a : K) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Polynomial/FieldDivision.lean:527]: This should be called `X_sub_C_mul_divByMonic_eq_sub_modByMonic`

File: Mathlib/Data/Polynomial/FieldDivision.lean (hunk 3 above)
Comment (mattrobball) [reply Mathlib/Data/Polynomial/FieldDivision.lean]: Done

File: Mathlib/Data/Polynomial/FieldDivision.lean (hunk 4 above)
Comment (mattrobball) [reply Mathlib/Data/Polynomial/FieldDivision.lean]: Done

**Comment by ChrisHughes24** [comment]
bors merge
